### ISSUE TITLE
§5.4: Throwing away hypotheses should be explained or better avoided

### ISSUE THREAD

**Issue by darijgr** [avigad/mathematics_in_lean_source#332]
```
theorem ne_one_iff_exists_prime_dvd : ∀ {n}, n ≠ 1 ↔ ∃ p : ℕ, p.Prime ∧ p ∣ n
  | 0 => by simpa using Exists.intro 2 Nat.prime_two
  | 1 => by simp [Nat.not_prime_one]
  | n + 2 => by
    have hn : n+2 ≠ 1 := by omega
    simp only [Ne, not_false_iff, true_iff, hn]
    by_cases h : Nat.Prime (n + 2)
    · use n+2, h
    · have : 2 ≤ n + 2 := by omega
      rw [Nat.not_prime_iff_exists_dvd_lt this] at h
      rcases h with ⟨m, mdvdn, mge2, -⟩
      have : m ≠ 1 := by omega
      rw [ne_one_iff_exists_prime_dvd] at this
      rcases this with ⟨p, primep, pdvdm⟩
      use p, primep
      exact pdvdm.trans mdvdn

```

The meaning of the "-" in `rcases h with ⟨m, mdvdn, mge2, -⟩` is worth explaining, as I don't think this syntax was ever used before. However, perhaps more importantly, I think this is a wrong use of "-", and I'm surprised that Lean allows it! The hypothesis (m < n+2) being thrown away here is actually being implicitly used to justify the application of the induction hypothesis.
